US05698584
Step 1: 3,4-Difluorophenoxymethyl vinyl ketone
To a suspension of 3,4-difluorophenoxy acetic acid (5.00 g, 25.7 mmol) lithium salt in DME (20 mL) was added to a 1M THF solution of vinyl magnesium bromide (38 mmol). After a period of 18 h, the resulting clear solution was poured over 1N HCl (67 mL). The aqueous phase was then extracted with Et2O. The ethereal phase was washed with H2O, 1M K2CO3 then H2O. After drying over MgSO4 and evaporation an orange oil was obtained and used as such for the next step.

reactant | 3,4-difluorophenoxy acetic acid | 25.7 mmol, 5.00 g | FC=1C=C(OCC(=O)O)C=CC1F | C8H6F2O3
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | vinyl magnesium bromide | 38 mmol | C(=C)[Mg]Br
reactant | HCl | 1N, 67 mL | Cl | ClH
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 3,4-Difluorophenoxymethyl vinyl ketone | C(=C)C(=O)COC1=CC(=C(C=C1)F)F | C10H8F2O2
